**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Ultraviolet High power LED
* Matchcode:          WL-SUMW SMT UltraViolet  Ceramic  Waterclear
* Library Type:       LTpice
* Version:        rev21a       
* Date and Time   :       2021-05-07
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3535_15335338AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.8130
+ RS=.8647
+ IKF=7.6250
+ CJO=0.000000000000050332
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_15335339AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.8130
+ RS=.8647
+ IKF=7.6250
+ CJO=0.000000000000050332
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_15335340AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.8130
+ RS=.8647
+ IKF=7.6250
+ CJO=0.000000000000050332
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  3535_15335337AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=3.0680
+ RS=.41847
+ IKF=13.956
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
 .subckt 3535_15335327BA250  1  2
 D1 1 2 led
.MODEL led D
+ IS=164.80E-18
+ N=4.9950
+ RS=20.245E-3
+ IKF=1.2031E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******
 .subckt 3535_15335327BA252  1  2
 D1 1 2 led
 .MODEL led D
+ IS=10.010E-21
+ N=4.1001
+ RS=1.9407E-3
+ IKF=62.901
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******













